US07060721B1
A solution of 4-chloro-5-chloromethyl-1-(2-chloro-4-(1-pentyloxy)benzyl)-2-methyl-1H-imidazole (340 mg) in acetonitrile (3 ml) was added gradually to a mixed solvent of 28% aqueous ammonia (6 ml) and acetonitrile (6 ml) under ice-cooling. The reaction mixture was stirred at room temperature for 1 hr. Saturated aqueous sodium hydrogencarbonate solution was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was applied to silica gel column chromatography and eluted with chloroform/methanol=100/1. The objective fraction was concentrated under reduced pressure to give 5-aminomethyl-4-chloro-1-(2-chloro-4-(1-pentyloxy)benzyl)-2-methyl-1H-imidazole (82 mg) as a pale-brown oil.

reactant | 4-chloro-5-chloromethyl-1-(2-chloro-4-(1-pentyloxy)benzyl)-2-methyl-1H-imidazole | 340 mg | ClC=1N=C(N(C1CCl)CC1=C(C=C(C=C1)OCCCCC)Cl)C | C17H21Cl3N2O
reactant | ammonia | 6 ml | N | H3N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 5-aminomethyl-4-chloro-1-(2-chloro-4-(1-pentyloxy)benzyl)-2-methyl-1H-imidazole | 82 mg | NCC1=C(N=C(N1CC1=C(C=C(C=C1)OCCCCC)Cl)C)Cl | C17H23Cl2N3O
